US06528510B1
3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-6-(2-furan-3-yl-ethyl)-4-hydroxy-6-isopropyl-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 16a using 6-(2-furan-3-yl-ethyl)-4-hydroxy-6-isopropyl-5,6-dihydro-pyran-2-one (Example E-18; 1 mmol), toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester (Example BB-2; 1.1 mmol), potassium carbonate (4 mmol) in DMF (4 mL). The product was flash chromatographed over silica gel using 70:20:10 hexane:EtOAc:CH2Cl2, mp 62-70° C. MS (APCI): 457 (M−H)

reactant | 6-(2-furan-3-yl-ethyl)-4-hydroxy-6-isopropyl-5,6-dihydro-pyran-2-one | 1 mmol | O1C=C(C=C1)CCC1(CC(=CC(O1)=O)O)C(C)C | C14H18O4
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester | 1.1 mmol | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | potassium carbonate | 4 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-6-(2-furan-3-yl-ethyl)-4-hydroxy-6-isopropyl-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SC=1C(OC(CC1O)(C(C)C)CCC1=COC=C1)=O | C26H34O5S
